US07728155B2
Treatment of (±)-(5-methyl-3,6,7,8-tetrahydro-2H-indeno[4,5-b]furan-2-yl)methyl 4-methylbenzenesulfonate (0.862 g, 2.40 mmol) with sodium azide (0.469 g, 7.21 mmol) generally according to the procedure described for Intermediate 24 gave (±)-(5-methyl-3,6,7,8-tetrahydro-2H-indeno[4,5-b]furan-2-yl)methyl azide. Treatment of the azide with palladium on carbon (10 wt. %, 0.055 g) generally according to the procedure described for Example 2 gave 0.460 g (80%) of (±)-1-(5-methyl-3,6,7,8-tetrahydro-2H-indeno[4,5-b]furan-2-yl)methanamine as a white solid, hydrochloride salt. mp>200° C. (dec.); Anal. calcd. for C13H17NOHCl: C, 65.13; H, 7.57; N, 5.84. Found: C, 64.97; H, 7.61; N, 5.67.

reactant | (±)-(5-methyl-3,6,7,8-tetrahydro-2H-indeno[4,5-b]furan-2-yl)methyl 4-methylbenzenesulfonate | 2.40 mmol, 0.862 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1CC2=C(O1)C=1CCCC1C(=C2)C | C20H22O4S
reactant | sodium azide | 7.21 mmol, 0.469 g | [N-]=[N+]=[N-].[Na+]
product | (±)-(5-methyl-3,6,7,8-tetrahydro-2H-indeno[4,5-b]furan-2-yl)methyl azide | CC1=CC2=C(OC(C2)CN=[N+]=[N-])C=2CCCC12 | C13H15N3O
